US07572798B2
SMA41 (1 mg) was dissolved in DMSO (500 μL), added to RPMI with 10% fetal bovine serum (2 mL) and incubated for 24 h at 37° C. Thereafter, proteins were precipitated by the addition of acetonitrile (3.5 ml) and the supernatant collected by centrifugation. The concentration of SMA52 derived from the degradation of SMA41 was calculated using a standard curve obtained from the serial dilution of independently synthesized SMA52 incubated in serum-containing medium under identical conditions. HPLC analyses were performed on a Hewlett-Packard 1090 liquid chromatograph using a Deltapak C4 15 μm 300×3.9 mm column (reverse phase) to characterize and quantitate the products resulting from the degradation of SMA41. The operating mode was isocratic and two solutions, “A” (50% acetonitrile) and “B” (50% water), were used with a 0.5 ml/min flow rate and a 5 μL injection volume. Under these conditions, independently synthesized SMA52 and SMA41 showed retention times of 11 and 15 min, respectively. For the rapid quantitation of metabolite, a less polar acetonitrile-water (70:30) eluent was used. Under these conditions SMA52 showed a retention time of 7.49 min. For LC-MS analysis of the degradation of SMA41, the column was placed on a Spectra System P1500 HPLC coupled with a Finnigan LCQDUO mass spectrometer.

reactant | SMA41 | 1 mg | CC1=CC(=CC=C1)NC2=NC=NC3=C2C=C(C=C3)NN=NC | C16H16N6
solvent | DMSO | 500 μL | CS(=O)C | C2H6OS
product | SMA52 | CC1=CC(=CC=C1)NC2=NC=NC3=C2C=C(C=C3)N | C15H14N4
